US07402580B2
4-(piperazin-1-yl)-5,6,7,8-tetrahydrophthalazin-1(2H)-one hydrochloride
To a suspension of 4-chloro-5,6,7,8-tetrahydrophthalazin-1(2H)-one (150 mg; CAS Registry No. 89981-21-5; the compound described in Yakugaku Zassi., 82, 302-303 (1962)) in ethylene glycol (1.6 mL) was added piperazine (420 mg) and the mixture was stirred at 200° C. for 7 hours. After cooling to room temperature, the reaction mixture was poured in a cold saturated aqueous sodium hydrogen carbonate solution and extracted with chloroform. The extract was washed brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel (methylene chloride:methanol=20:1→10:1) to give free form of the title compound (64 mg). To a solution of the obtained free form in methanol (2.0 mL) was added 4N hydrogen chloride-ethyl acetate solution (1 mL). The mixture was stirred at room temperature and concentrated. The residue was recrystallized from a mixed solution of methanol and ethyl acetate to give the compound of the present invention (21 mg) having the following physical data.

reactant | 4-chloro-5,6,7,8-tetrahydrophthalazin-1(2H)-one | ClC1=NNC(C=2CCCCC12)=O | C8H9ClN2O
reactant | piperazine | 420 mg | N1CCNCC1 | C4H10N2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethylene glycol | 1.6 mL | C(CO)O | C2H6O2
product | 4-(piperazin-1-yl)-5,6,7,8-tetrahydrophthalazin-1(2H)-one hydrochloride | 64 mg | Cl.N1(CCNCC1)C1=NNC(C=2CCCCC12)=O | InChI=1S/C12H18N4O.ClH/c17-12-10-4-2-1-3-9(10)11(14-15-12)16-7-5-13-6-8-16;/h13H,1-8H2,(H,15,17);1H
